US07638631B2
5-{4-[(1-Cyclobutyl-4-piperidinyl)methyl]-1-piperidinyl}-2-pyridinecarbonitrile (E22)
Example 22 was prepared using an analogous process to that described in Example 21 from 1-cyclobutyl-4-(4-piperidinylmethyl)piperidine (may be prepared as described in Description 6) and 5-bromo-2-pyridinecarbonitrile. The compound displayed 1H-NMR and mass spectral data that were consistent with structure. MS electrospray (+ion) 339 (MH+).

reactant | 1-cyclobutyl-4-(4-piperidinylmethyl)piperidine | C1(CCC1)N1CCC(CC1)CC1CCNCC1 | C15H28N2
reactant | 5-bromo-2-pyridinecarbonitrile | BrC=1C=CC(=NC1)C#N | C6H3BrN2
product | 5-{4-[(1-Cyclobutyl-4-piperidinyl)methyl]-1-piperidinyl}-2-pyridinecarbonitrile | C1(CCC1)N1CCC(CC1)CC1CCN(CC1)C=1C=CC(=NC1)C#N | C21H30N4
